US07906517B2
Tert-butyl 3-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-carbamoyloxy]-propionate (114 mg) is dissolved in a 4N-hydrochloric acid in ethyl acetate (5 ml), and the mixture is stirred at room temperature for 1 hour and 30 minutes. Thereto are added a saturated aqueous sodium bicarbonate solution and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (chloroform:methanol=1:0→19:1) to give 3-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-carbamoyloxy]-propionic acid (81 mg). The resulting 3-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-carbamoyloxy]-propionic acid (81 mg) is dissolved in ethanol (1 ml), and thereto is added 1N-aqueous sodium hydroxide solution (115 μl) and concentrated under reduced pressure to give 3-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethylcarbamoyloxy]-propionic acid sodium salt (78 mg). MS (m/z): 722 [M−Na]−

reactant | Tert-butyl 3-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-carbamoyloxy]-propionate | 114 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)N(C(=O)OCCC(=O)OC(C)(C)C)CC)C=C(C1)C(F)(F)F)(F)F | C35H38F9N5O5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-carbamoyloxy]-propionic acid | 81 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)N(C(=O)OCCC(=O)O)CC)C=C(C1)C(F)(F)F)(F)F | C31H30F9N5O5
